### PR TITLE
[Merged by Bors] - feat(AffineSpace): `Singleton` instance for `AffineSubspace`

### PR DESCRIPTION
**Pull request by vlad902**
Add a Singleton instance to allow referring to the singleton affine subspace as `{x}` instead of having to use the more cumbersome `affineSpan R {x}`. I've found this useful working in the [Polyhedral](https://github.com/ooovi/Polyhedral) repository and want to upstream it for subsequent PRs.

Created as part of the Berlin "Polyhedra in Lean" workshop.

Co-authored-by: Martin Winter @martinwintermath

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 1]
```diff
@@ -240,6 +263,10 @@ def direction (s : AffineSubspace k P) : Submodule k V :=
 theorem direction_eq_vectorSpan (s : AffineSubspace k P) : s.direction = vectorSpan k (s : Set P) :=
   rfl
 
+@[simp]
+theorem direction_singleton_eq_bot (x : P) : ({x} : AffineSubspace k P).direction = ⊥ := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: Maybe just
```suggestion
theorem direction_singleton (x : P) : ({x} : AffineSubspace k P).direction = ⊥ := by
```

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean [hunk 2]
```diff
@@ -240,6 +263,10 @@ def direction (s : AffineSubspace k P) : Submodule k V :=
...
+  simp [AffineSubspace.direction]
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: Could we also have `direction_eq_bot_iff`?

File: Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean [hunk 3]
```diff
@@ -79,6 +79,12 @@ instance finiteDimensional_direction_affineSpan_singleton (p : P) :
   rw [direction_affineSpan]
   infer_instance
 
+/-- The direction of a singleton is finite-dimensional. -/
+instance finiteDimensional_directionsingleton (p : P) :
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/AffineSpace/FiniteDimensional.lean]:
```suggestion
instance finiteDimensional_direction_singleton (p : P) :
```

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean (hunk 2 above)
Comment (vlad902) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: I have the following in #43270, should I duplicate it here?
```lean4
@[simp]
theorem direction_eq_bot_iff {s : AffineSubspace k P} :
    s.direction = ⊥ ↔ (s : Set P).Subsingleton := by
  simp [direction]
```

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Defs.lean]: Ah no cool let's just leave it to the other PR!

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
